US07923561B2
rac-N-[2-(2,3-Dihydro-benzofuran-3-ylamino)-quinolin-5-yl]-3,4,5-trifluoro-benzenesulfonamide
N-(2-Chloro-quinolin-5-yl)-3,4,5-trifluoro-benzenesulfonamide (150 mg, 0.402 mmol) was dissolved in 5 mL dioxane. Argon was bubbled through the solution for 2 minutes to remove oxygen. rac-2,3-Dihydro-benzofuran-3-ylamine (CAS 109926-35-4, 82 mg, 0.607 mmol), sodium tert.-butylate (97 mg, 1.01 mmol), 1,1′-bis(diphenylphosphin)ferrocen (33 mg, 0.06 mmol) and 1,1′-bis(diphenylphosphin)ferrocen-palladium(II) chloride (16 mg, 0.02 mmol) were added. The reaction mixture was stirred in a sealed tube at 120° C. for 6 hours. The solvent was evaporated and the residue purified by flash chromatography on silica gel (heptane/ethyl acetate 100:0->70:30 gradient). The title compound was obtained as a yellow foam (100 mg, 53%), MS: m/e 472.4 (M+H+).

reactant | N-(2-Chloro-quinolin-5-yl)-3,4,5-trifluoro-benzenesulfonamide | 0.402 mmol, 150 mg | ClC1=NC2=CC=CC(=C2C=C1)NS(=O)(=O)C1=CC(=C(C(=C1)F)F)F | C15H8ClF3N2O2S
reactant | rac-2,3-Dihydro-benzofuran-3-ylamine | 0.607 mmol, 82 mg | O1CC(C2=C1C=CC=C2)N | C8H9NO
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | rac-N-[2-(2,3-Dihydro-benzofuran-3-ylamino)-quinolin-5-yl]-3,4,5-trifluoro-benzenesulfonamide | O1CC(C2=C1C=CC=C2)NC2=NC1=CC=CC(=C1C=C2)NS(=O)(=O)C2=CC(=C(C(=C2)F)F)F | C23H16F3N3O3S
